US06962890B2
Into a 100 ml reactor thoroughly dried and purged with nitrogen, 11.22 g (46.30 mmol) of 2-(1-adamantyl)-4-methylphenol and 100 ml of THF were introduced. To the reactor, 16.20 ml of an ether solution containing 48.60 mmol of ethylmagnesium bromide was dropwise added at 0° C. over a period of 30 minutes, then the temperature of the system was slowly raised to room temperature, and the reaction solution was stirred at room temperature for 2.5 hours. Then, 300 ml of toluene was added, and the system was heated to 100° C. to give an opaque white slurry. After the slurry was cooled to room temperature, 3.80 g (126.54 mmol) of paraformaldehyde and 7.10 ml (70.17 mmol) of triethylamine were added, followed by stirring at 85° C. for 30 minutes. The reaction solution was allowed to cool to room temperature and then quenched with 10% hydrochloric acid. The organic layer was concentrated, and the solid precipitated was vacuum dried to obtain 10.51 g (yield: 84%) of 3-(1-adamantyl)-5-methylsalicylaldehyde.

reactant | 2-(1-adamantyl)-4-methylphenol | 46.30 mmol, 11.22 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)C)O | C17H22O
reactant | ethylmagnesium bromide | 48.60 mmol | C(C)[Mg]Br
reactant | paraformaldehyde | 126.54 mmol, 3.80 g | C=O | CH2O
reactant | triethylamine | 70.17 mmol, 7.10 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 16.20 ml | CCOCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(1-adamantyl)-5-methylsalicylaldehyde | 10.51 g, yield: 84% | C12(CC3CC(CC(C1)C3)C2)C2=C(C(C=O)=CC(=C2)C)O | C18H22O2
